US05216142
LA-AZT ("AK 2")
The procedure for this preparation is exactly as above. The quantities used were as follows: AZT, 0.723 g, 2.70 mmol. LA acid chloride, 1.3 g, 4.36 mmol. 10 ml of anhydrous pyridine. Yield, 54% (0.770 g, 1.458 mmol).

reactant | AZT | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-] | C10H13N5O4
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | LA-AZT | CCCCC/C=C\C/C=C\CCCCCCCC(=O)OC[C@@H]1[C@H](C[C@@H](O1)N2C=C(C(=O)NC2=O)C)N=[N+]=[N-] | C28H43N5O5
